US05880130
Using an analogous reaction procedure to that described in Example 6, 4-chloro-6-[4'-(2-hydroxyethoxy)anilino]pyrimidine (0.52 g) (prepared from the reaction of 4,6-dichloropyrimidine and 4-(2-hydroxyethoxy)aniline) was reacted with 2-fluoroaniline (1 ml). The reaction product was chromatographed on silica and recrystallised from a mixture of methylene chloride, methanol and hexane to give 4-(2'-fluoroanilino)- 6-[4'-(2-hydroxyethoxy)anilino]pyrimidine in 24% yield, m.p. 163°-166° C.;

reactant | 4-chloro-6-[4'-(2-hydroxyethoxy)anilino]pyrimidine | 0.52 g | ClC1=NC=NC(=C1)NC1=CC=C(C=C1)OCCO | C12H12ClN3O2
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 4-(2-hydroxyethoxy)aniline | OCCOC1=CC=C(N)C=C1 | C8H11NO2
reactant | 2-fluoroaniline | 1 ml | FC1=C(N)C=CC=C1 | C6H6FN
product | 4-(2'-fluoroanilino)- 6-[4'-(2-hydroxyethoxy)anilino]pyrimidine | 24% yield | FC1=C(NC2=NC=NC(=C2)NC2=CC=C(C=C2)OCCO)C=CC=C1 | C18H17FN4O2
